US06479531B1
3-{2-[5-(2-Adamantan-1-yl-ethyl)-3-methyl-2-o-tolyl-3H-imidazol-4-yl]-vinyl}-benzoic Acid
The title compound was prepared according to the procedure of Example 275, with the modification that 5-(2-adamantan-1-yl-ethyl)-3-methyl-2-o-tolyl-3H-imidazole-4-carboxylic acid ethyl ester (Example 73, step a) was used in step a instead of 5-(2-adamantan-1-yl-ethyl)-1-methyl-2-o-tolyl-1H-imidazole4-carboxylic acid ethyl ester. 1H NMR (300 MHz, d6-DMSO) complex, mixture of cis/trans isomers. The acid was converted to the N-methyl-D-glucamine salt and lyophilised from water/dioxan. Found: C, 62.67; H, 8.29; N, 5.70%. C39H53N3O7.4.0 mols H2O requires: C, 62.63; H, 8.22; N, 5.62%.

reactant | 5-(2-adamantan-1-yl-ethyl)-3-methyl-2-o-tolyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1CCC12CC3CC(CC(C1)C3)C2)C2=C(C=CC=C2)C)C | C26H34N2O2
reactant | 5-(2-adamantan-1-yl-ethyl)-1-methyl-2-o-tolyl-1H-imidazole4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C1CCC12CC3CC(CC(C1)C3)C2)C)C2=C(C=CC=C2)C | C26H34N2O2
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | H2O | 4.0 mols | O | H2O
reactant | water dioxan | O.O1CCOCC1
product | 3-{2-[5-(2-Adamantan-1-yl-ethyl)-3-methyl-2-o-tolyl-3H-imidazol-4-yl]-vinyl}-benzoic Acid | C12(CC3CC(CC(C1)C3)C2)CCC2=C(N(C(=N2)C2=C(C=CC=C2)C)C)C=CC=2C=C(C(=O)O)C=CC2 | C32H36N2O2
